US06884801B1
2-Amino-N-(cyclopropylmethyl)-N-propylbenzamide (prepared from N-propylcyclopropanemethylamine and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give N-(cyclopropylmethyl)-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N-propylbenzamide.

reactant | 2-Amino-N-(cyclopropylmethyl)-N-propylbenzamide | NC1=C(C(=O)N(CCC)CC2CC2)C=CC=C1 | C14H20N2O
reactant | N-propylcyclopropanemethylamine | C(CC)NCC1CC1 | C7H15N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | N-(cyclopropylmethyl)-2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N-propylbenzamide | C1(CC1)CN(C(C1=C(C=CC=C1)NCC=1NCCN1)=O)CCC | C18H26N4O
